* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.009469728502868813
Fd1_1 0 s1 V1 -0.47348642514344064
Gr1_1_1 0 s1 x1_a1 0 103024797833.01494
Gr2_re_1_1 0 s1 x2_re_a1 0 1569721507.4310937
Gr2_im_1_1 0 s1 x2_im_a1 0 2717421322.419752
Gr3_re_1_1 0 s1 x3_re_a1 0 -1624639.317943135
Gr3_im_1_1 0 s1 x3_im_a1 0 -1309669.6717619945
Gr4_re_1_1 0 s1 x4_re_a1 0 -1152148.6166385342
Gr4_im_1_1 0 s1 x4_im_a1 0 -122833.55180618017
Gr5_re_1_1 0 s1 x5_re_a1 0 -660330.4905336227
Gr5_im_1_1 0 s1 x5_im_a1 0 -399458.24186028936
Gd1_2 0 s1 p2 0 2.142529373917417e-05
Fd1_2 0 s1 V2 0.0010712646869587086
Gr1_1_2 0 s1 x1_a2 0 -176552410.0606299
Gr2_re_1_2 0 s1 x2_re_a2 0 -2607966.5846274844
Gr2_im_1_2 0 s1 x2_im_a2 0 587487.6034814129
Gr3_re_1_2 0 s1 x3_re_a2 0 -26375.23691408595
Gr3_im_1_2 0 s1 x3_im_a2 0 -851039.4709644454
Gr4_re_1_2 0 s1 x4_re_a2 0 161207.4069254699
Gr4_im_1_2 0 s1 x4_im_a2 0 -204317.94474888354
Gr5_re_1_2 0 s1 x5_re_a2 0 603754.4359406836
Gr5_im_1_2 0 s1 x5_im_a2 0 174468.3102566522
Gd1_3 0 s1 p3 0 1.5242507272318161e-05
Fd1_3 0 s1 V3 0.0007621253636159081
Gr1_1_3 0 s1 x1_a3 0 -180931368.04678282
Gr2_re_1_3 0 s1 x2_re_a3 0 589014.9449622369
Gr2_im_1_3 0 s1 x2_im_a3 0 -1682267.7648327623
Gr3_re_1_3 0 s1 x3_re_a3 0 2855655.9387434237
Gr3_im_1_3 0 s1 x3_im_a3 0 9570860.129355006
Gr4_re_1_3 0 s1 x4_re_a3 0 11548578.198176203
Gr4_im_1_3 0 s1 x4_im_a3 0 -2398200.3737839297
Gr5_re_1_3 0 s1 x5_re_a3 0 -9893695.212794565
Gr5_im_1_3 0 s1 x5_im_a3 0 -7074272.285535458
Gd1_4 0 s1 p4 0 2.936146658171162e-07
Fd1_4 0 s1 V4 1.468073329085581e-05
Gr1_1_4 0 s1 x1_a4 0 -3668505.0076282974
Gr2_re_1_4 0 s1 x2_re_a4 0 13772.1085915744
Gr2_im_1_4 0 s1 x2_im_a4 0 -40353.57483805387
Gr3_re_1_4 0 s1 x3_re_a4 0 31819.163709674016
Gr3_im_1_4 0 s1 x3_im_a4 0 42932.77176475219
Gr4_re_1_4 0 s1 x4_re_a4 0 55175.95030007758
Gr4_im_1_4 0 s1 x4_im_a4 0 -14844.009163385468
Gr5_re_1_4 0 s1 x5_re_a4 0 -3942.0402047086827
Gr5_im_1_4 0 s1 x5_im_a4 0 -8450.500668028291
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.609629552075205e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 5.036903577623892e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 264689458324.56516
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -264689458324.56516
Rp2_im_im_a1 0 x2_im_a1 5.036903577623892e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.9345131274155165e-08
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 1678036445.305561
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -1678036445.305561
Rp3_im_im_a1 0 x3_im_a1 2.9345131274155165e-08
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 2.7275986372111647e-08
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 882233395.1827472
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -882233395.1827472
Rp4_im_im_a1 0 x4_im_a1 2.7275986372111647e-08
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 2.593204312045291e-08
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 177549810.61254495
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -177549810.61254495
Rp5_im_im_a1 0 x5_im_a1 2.593204312045291e-08
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 2.1434160187199685e-05
Fd2_1 0 s2 V1 0.0010717080093599844
Gr1_2_1 0 s2 x1_a1 0 -176743264.72966298
Gr2_re_2_1 0 s2 x2_re_a1 0 -2617062.2902739034
Gr2_im_2_1 0 s2 x2_im_a1 0 615679.7711766361
Gr3_re_2_1 0 s2 x3_re_a1 0 -26815.961425993148
Gr3_im_2_1 0 s2 x3_im_a1 0 -850591.2750694714
Gr4_re_2_1 0 s2 x4_re_a1 0 161310.42823933516
Gr4_im_2_1 0 s2 x4_im_a1 0 -204280.3109573783
Gr5_re_2_1 0 s2 x5_re_a1 0 603468.7416690419
Gr5_im_2_1 0 s2 x5_im_a1 0 174360.98117156082
Gd2_2 0 s2 p2 0 -0.009643725204967308
Fd2_2 0 s2 V2 -0.48218626024836536
Gr1_2_2 0 s2 x1_a2 0 106296106413.77577
Gr2_re_2_2 0 s2 x2_re_a2 0 1385307359.466861
Gr2_im_2_2 0 s2 x2_im_a2 0 2825679507.871815
Gr3_re_2_2 0 s2 x3_re_a2 0 -1657547.1970105604
Gr3_im_2_2 0 s2 x3_im_a2 0 -1285562.3567283652
Gr4_re_2_2 0 s2 x4_re_a2 0 -1095858.170826517
Gr4_im_2_2 0 s2 x4_im_a2 0 -148717.16471487586
Gr5_re_2_2 0 s2 x5_re_a2 0 -705215.7523737611
Gr5_im_2_2 0 s2 x5_im_a2 0 -453674.530047621
Gd2_3 0 s2 p3 0 3.334690564751355e-07
Fd2_3 0 s2 V3 1.6673452823756774e-05
Gr1_2_3 0 s2 x1_a3 0 -4057876.19617104
Gr2_re_2_3 0 s2 x2_re_a3 0 15936.881273882975
Gr2_im_2_3 0 s2 x2_im_a3 0 -38233.17189844557
Gr3_re_2_3 0 s2 x3_re_a3 0 29713.463463747266
Gr3_im_2_3 0 s2 x3_im_a3 0 42043.10106854908
Gr4_re_2_3 0 s2 x4_re_a3 0 55540.97706866003
Gr4_im_2_3 0 s2 x4_im_a3 0 -13639.367240598238
Gr5_re_2_3 0 s2 x5_re_a3 0 -3376.384275258864
Gr5_im_2_3 0 s2 x5_im_a3 0 -10208.041200926245
Gd2_4 0 s2 p4 0 1.52257254667767e-05
Fd2_4 0 s2 V4 0.0007612862733388351
Gr1_2_4 0 s2 x1_a4 0 -180805969.42540297
Gr2_re_2_4 0 s2 x2_re_a4 0 586896.0911330096
Gr2_im_2_4 0 s2 x2_im_a4 0 -1669337.5968513894
Gr3_re_2_4 0 s2 x3_re_a4 0 2886557.155144554
Gr3_im_2_4 0 s2 x3_im_a4 0 9497431.971816877
Gr4_re_2_4 0 s2 x4_re_a4 0 11509470.982325856
Gr4_im_2_4 0 s2 x4_im_a4 0 -2434420.2294849483
Gr5_re_2_4 0 s2 x5_re_a4 0 -9902637.17918488
Gr5_im_2_4 0 s2 x5_im_a4 0 -7070736.458096373
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.609629552075205e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 5.036903577623892e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 264689458324.56516
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -264689458324.56516
Rp2_im_im_a2 0 x2_im_a2 5.036903577623892e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.9345131274155165e-08
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 1678036445.305561
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -1678036445.305561
Rp3_im_im_a2 0 x3_im_a2 2.9345131274155165e-08
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 2.7275986372111647e-08
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 882233395.1827472
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -882233395.1827472
Rp4_im_im_a2 0 x4_im_a2 2.7275986372111647e-08
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 2.593204312045291e-08
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 177549810.61254495
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -177549810.61254495
Rp5_im_im_a2 0 x5_im_a2 2.593204312045291e-08
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 1.5192058576224722e-05
Fd3_1 0 s3 V1 0.0007596029288112361
Gr1_3_1 0 s3 x1_a1 0 -180720528.2393687
Gr2_re_3_1 0 s3 x2_re_a1 0 601332.0228590594
Gr2_im_3_1 0 s3 x2_im_a1 0 -1677157.5265661748
Gr3_re_3_1 0 s3 x3_re_a1 0 2857182.4950004173
Gr3_im_3_1 0 s3 x3_im_a1 0 9563148.480261281
Gr4_re_3_1 0 s3 x4_re_a1 0 11540682.525594003
Gr4_im_3_1 0 s3 x4_im_a1 0 -2401411.476959519
Gr5_re_3_1 0 s3 x5_re_a1 0 -9896741.151957635
Gr5_im_3_1 0 s3 x5_im_a1 0 -7069078.485199693
Gd3_2 0 s3 p2 0 2.802047290893811e-07
Fd3_2 0 s3 V2 1.4010236454469057e-05
Gr1_3_2 0 s3 x1_a2 0 -3557216.4632635787
Gr2_re_3_2 0 s3 x2_re_a2 0 22271.71488503422
Gr2_im_3_2 0 s3 x2_im_a2 0 -43777.502164577745
Gr3_re_3_2 0 s3 x3_re_a2 0 29598.340207735186
Gr3_im_3_2 0 s3 x3_im_a2 0 41964.490961121934
Gr4_re_3_2 0 s3 x4_re_a2 0 55458.999521866834
Gr4_im_3_2 0 s3 x4_im_a2 0 -13684.706948535579
Gr5_re_3_2 0 s3 x5_re_a2 0 -3276.4280315292604
Gr5_im_3_2 0 s3 x5_im_a2 0 -10197.687894252644
Gd3_3 0 s3 p3 0 0.002762052516118582
Fd3_3 0 s3 V3 0.1381026258059291
Gr1_3_3 0 s3 x1_a3 0 -26125937897.656124
Gr2_re_3_3 0 s3 x2_re_a3 0 -278121544.5030515
Gr2_im_3_3 0 s3 x2_im_a3 0 -110199931.216493
Gr3_re_3_3 0 s3 x3_re_a3 0 35412.21832997736
Gr3_im_3_3 0 s3 x3_im_a3 0 531587.6625135388
Gr4_re_3_3 0 s3 x4_re_a3 0 154655.0907510657
Gr4_im_3_3 0 s3 x4_im_a3 0 149435.97791948883
Gr5_re_3_3 0 s3 x5_re_a3 0 335021.3791881571
Gr5_im_3_3 0 s3 x5_im_a3 0 50092.7824445118
Gd3_4 0 s3 p4 0 -9.339552113557758e-07
Fd3_4 0 s3 V4 -4.669776056778879e-05
Gr1_3_4 0 s3 x1_a4 0 8448061.178249264
Gr2_re_3_4 0 s3 x2_re_a4 0 72870.56673928144
Gr2_im_3_4 0 s3 x2_im_a4 0 -25605.00830586298
Gr3_re_3_4 0 s3 x3_re_a4 0 72124.08824345868
Gr3_im_3_4 0 s3 x3_im_a4 0 507219.5418103325
Gr4_re_3_4 0 s3 x4_re_a4 0 307951.6911048483
Gr4_im_3_4 0 s3 x4_im_a4 0 -87449.44210836354
Gr5_re_3_4 0 s3 x5_re_a4 0 -473593.34556889953
Gr5_im_3_4 0 s3 x5_im_a4 0 -584745.8874345473
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 1.609629552075205e-12
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 5.036903577623892e-11
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 264689458324.56516
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -264689458324.56516
Rp2_im_im_a3 0 x2_im_a3 5.036903577623892e-11
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 2.9345131274155165e-08
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 1678036445.305561
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -1678036445.305561
Rp3_im_im_a3 0 x3_im_a3 2.9345131274155165e-08
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 2.7275986372111647e-08
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 882233395.1827472
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -882233395.1827472
Rp4_im_im_a3 0 x4_im_a3 2.7275986372111647e-08
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.1414213562373095
Fx5_re_a3 0 x5_re_a3 V3 7.0710678118654755
Rp5_re_re_a3 0 x5_re_a3 2.593204312045291e-08
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 177549810.61254495
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -177549810.61254495
Rp5_im_im_a3 0 x5_im_a3 2.593204312045291e-08
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 3.229416731690772e-07
Fd4_1 0 s4 V1 1.614708365845386e-05
Gr1_4_1 0 s4 x1_a1 0 -3919664.0070146397
Gr2_re_4_1 0 s4 x2_re_a1 0 23728.19049759109
Gr2_im_4_1 0 s4 x2_im_a1 0 -34393.301939902216
Gr3_re_4_1 0 s4 x3_re_a1 0 31781.956416300272
Gr3_im_4_1 0 s4 x3_im_a1 0 42972.66490769487
Gr4_re_4_1 0 s4 x4_re_a1 0 55026.62927749639
Gr4_im_4_1 0 s4 x4_im_a1 0 -14748.646858779279
Gr5_re_4_1 0 s4 x5_re_a1 0 -4002.0207936956117
Gr5_im_4_1 0 s4 x5_im_a1 0 -8563.187637152138
Gd4_2 0 s4 p2 0 1.5195299535697389e-05
Fd4_2 0 s4 V2 0.0007597649767848695
Gr1_4_2 0 s4 x1_a2 0 -180743477.83296177
Gr2_re_4_2 0 s4 x2_re_a2 0 576805.28133378
Gr2_im_4_2 0 s4 x2_im_a2 0 -1685955.5508833402
Gr3_re_4_2 0 s4 x3_re_a2 0 2887596.115649197
Gr3_im_4_2 0 s4 x3_im_a2 0 9494321.489847304
Gr4_re_4_2 0 s4 x4_re_a2 0 11504849.510231158
Gr4_im_4_2 0 s4 x4_im_a2 0 -2433987.655041592
Gr5_re_4_2 0 s4 x5_re_a2 0 -9907424.204506965
Gr5_im_4_2 0 s4 x5_im_a2 0 -7060232.19905711
Gd4_3 0 s4 p3 0 -9.840311148797418e-07
Fd4_3 0 s4 V3 -4.920155574398709e-05
Gr1_4_3 0 s4 x1_a3 0 8990338.569290927
Gr2_re_4_3 0 s4 x2_re_a3 0 87131.3860335595
Gr2_im_4_3 0 s4 x2_im_a3 0 -17568.99531939264
Gr3_re_4_3 0 s4 x3_re_a3 0 71872.7925553603
Gr3_im_4_3 0 s4 x3_im_a3 0 507878.52678287454
Gr4_re_4_3 0 s4 x4_re_a3 0 308112.64522523416
Gr4_im_4_3 0 s4 x4_im_a3 0 -87252.63088227421
Gr5_re_4_3 0 s4 x5_re_a3 0 -474039.09468009206
Gr5_im_4_3 0 s4 x5_im_a3 0 -584783.0619980711
Gd4_4 0 s4 p4 0 0.0026102404449148474
Fd4_4 0 s4 V4 0.13051202224574238
Gr1_4_4 0 s4 x1_a4 0 -23680941797.224804
Gr2_re_4_4 0 s4 x2_re_a4 0 -190817787.86466622
Gr2_im_4_4 0 s4 x2_im_a4 0 78716846.9293113
Gr3_re_4_4 0 s4 x3_re_a4 0 78240.47718018375
Gr3_im_4_4 0 s4 x3_im_a4 0 764816.6847718469
Gr4_re_4_4 0 s4 x4_re_a4 0 93024.90348981993
Gr4_im_4_4 0 s4 x4_im_a4 0 182325.49206275912
Gr5_re_4_4 0 s4 x5_re_a4 0 333479.6826904009
Gr5_im_4_4 0 s4 x5_im_a4 0 6984.157667359892
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 1.609629552075205e-12
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 5.036903577623892e-11
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 264689458324.56516
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -264689458324.56516
Rp2_im_im_a4 0 x2_im_a4 5.036903577623892e-11
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 2.9345131274155165e-08
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 1678036445.305561
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -1678036445.305561
Rp3_im_im_a4 0 x3_im_a4 2.9345131274155165e-08
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 2.7275986372111647e-08
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 882233395.1827472
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -882233395.1827472
Rp4_im_im_a4 0 x4_im_a4 2.7275986372111647e-08
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.1414213562373095
Fx5_re_a4 0 x5_re_a4 V4 7.0710678118654755
Rp5_re_re_a4 0 x5_re_a4 2.593204312045291e-08
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 177549810.61254495
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -177549810.61254495
Rp5_im_im_a4 0 x5_im_a4 2.593204312045291e-08
.ENDS s_equivalent
